### PR TITLE
[Merged by Bors] - feat(SetTheory): ℵ_ univ = univ

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Aleph.lean [hunk 1]
```diff
@@ -270,6 +272,12 @@ theorem range_omega : range omega = {x | ω ≤ x ∧ IsInitial x} := by
 theorem mem_range_omega_iff {x : Ordinal} : x ∈ range omega ↔ ω ≤ x ∧ IsInitial x := by
   rw [range_omega, mem_setOf]
 
+theorem preOmega_eq_omega {o : Ordinal} (ho : ω ^ 2 ≤ o) : preOmega o = ω_ o := by
```
Comment (plp127) [inline Mathlib/SetTheory/Cardinal/Aleph.lean]: Can we give this name some more qualifiers to distinguish it from `omega_eq_preOmega`

File: Mathlib/SetTheory/Cardinal/Regular.lean [hunk 2]
```diff
@@ -295,17 +295,56 @@ theorem IsInaccessible.isRegular {c : Cardinal} (h : IsInaccessible c) : IsRegul
...
+theorem IsInaccessible.isSuccLimit {c : Cardinal} (h : IsInaccessible c) : IsSuccLimit c :=
+  h.isStrongLimit.isSuccLimit
+
 theorem isInaccessible_def {c : Cardinal} :
     IsInaccessible c ↔ ℵ₀ < c ∧ IsRegular c ∧ IsStrongLimit c where
   mp h := ⟨h.aleph0_lt, h.isRegular, h.isStrongLimit⟩
   mpr := fun ⟨h₁, h₂, h₃⟩ ↦ ⟨h₁, h₂.2, h₃.two_power_lt⟩
 
--- Lean's foundations prove the existence of ℵ₀ many inaccessible cardinals
+/-- Lean's foundations prove the existence of ℵ₀ many inaccessible cardinals. -/
```
Comment (plp127) [inline Mathlib/SetTheory/Cardinal/Regular.lean]: This seems technically incorrect. For every natural number `n`, Lean's foundations prove the statement "there are at least `n` inaccessibles in `Ordinal.{n}`". But it is not the case that Lean's foundations prove the statement "for every natural number `n`, there are at least `n` inaccessibles", because you can't take a free variable of type `Nat` and turn it into a universe.

Comment (vihdzp) [inline Mathlib/SetTheory/Cardinal/Regular.lean]:
```suggestion
/-- Lean's foundations prove the existence of `u` inaccessibles in universe `u`. -/
```

**Review by mattdiamond — APPROVED** [review]

File: Mathlib/SetTheory/Cardinal/Regular.lean [hunk 3]
```diff
@@ -323,16 +323,69 @@ theorem IsInaccessible.isRegular {c : Cardinal} (h : IsInaccessible c) : IsRegul
...
--- TODO: prove that `IsInaccessible o.card` implies `IsInaccessible (ℵ_ o)` and
--- `IsInaccessible (ℶ_ o)`
+theorem IsInaccessible.preBeth_ord (hc : IsInaccessible c) : preBeth c.ord = c := by
+  apply (preBeth_strictMono.comp ord_strictMono).le_apply.antisymm'
+  apply (isNormal_preBeth.le_iff_forall_le (isSuccLimit_ord hc.aleph0_lt.le)).2
+  refine fun a ha ↦ le_of_lt ?_
+  induction a using WellFoundedLT.induction with | ind a IH
+  rw [preBeth]
+  apply lift_iSup_lt_of_lt_cof_ord _ _
+  · rwa [mk_Iio_ordinal, lift_lift, ← lift_ord, ← lift_cof, lift_lt, hc.isRegular.cof_ord, ← lt_ord]
```
Comment (mattdiamond) [inline Mathlib/SetTheory/Cardinal/Regular.lean]: this is really nitpicking but in theory you could shorten this line by two lemmas
```suggestion
  · rwa [mk_Iio_ordinal, lift_lift, hc.isRegular.lift.cof_ord, lift_lt, ← lt_ord]
```

File: Mathlib/SetTheory/Cardinal/Regular.lean [hunk 4]
```diff
@@ -323,16 +323,69 @@ theorem IsInaccessible.isRegular {c : Cardinal} (h : IsInaccessible c) : IsRegul
...
+  h.isStrongLimit.isSuccLimit
+
 theorem isInaccessible_def {c : Cardinal} :
     IsInaccessible c ↔ ℵ₀ < c ∧ IsRegular c ∧ IsStrongLimit c where
   mp h := ⟨h.aleph0_lt, h.isRegular, h.isStrongLimit⟩
   mpr := fun ⟨h₁, h₂, h₃⟩ ↦ ⟨h₁, h₂.2, h₃.two_power_lt⟩
 
--- Lean's foundations prove the existence of ℵ₀ many inaccessible cardinals
+/-- Lean's foundations prove the existence of `u` inaccessibles in universe `u`. -/
 theorem IsInaccessible.univ : IsInaccessible univ.{u, v} :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Regular.lean]: Is it really what this is saying? Where are my two inaccessibles in `Type 2`?

File: Mathlib/SetTheory/Cardinal/Regular.lean [hunk 5]
```diff
@@ -323,16 +323,69 @@ theorem IsInaccessible.isRegular {c : Cardinal} (h : IsInaccessible c) : IsRegul
...
+  ((aleph_le_beth _).trans hc.beth_ord.le).antisymm (aleph.strictMono.comp ord_strictMono).le_apply
+
+theorem IsInaccessible.preOmega_ord (hc : IsInaccessible c) : preOmega c.ord = c.ord := by
+  rw [← ord_preAleph, hc.preAleph_ord]
+
+theorem IsInaccessible.omega_ord (hc : IsInaccessible c) : ω_ c.ord = c.ord := by
+  rw [← ord_aleph, hc.aleph_ord]
+
+@[simp]
+theorem preBeth_univ : preBeth Ordinal.univ.{u, v} = univ.{u, v} := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Regular.lean:451]: nit:
```suggestion
theorem preBeth_univ : preBeth .univ.{u, v} = univ.{u, v} := by
```
same below

File: Mathlib/SetTheory/Cardinal/Regular.lean (hunk 4 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Regular.lean]: Your two inaccessibles are `univ.{0, 2}` and `univ.{1, 2}`.

File: Mathlib/SetTheory/Cardinal/Regular.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Regular.lean:451]: Dot notation doesn't work with explicit universes (as I pointed out in another PR).

Comment (YaelDillies) [reply Mathlib/SetTheory/Cardinal/Regular.lean:451]: Oh! Mind opening an issue?

File: Mathlib/SetTheory/Cardinal/Regular.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/SetTheory/Cardinal/Regular.lean]: So shouldn't this be
```suggestion
/-- Lean's foundations prove the existence of `v` inaccessibles in universe `v`. -/
theorem IsInaccessible.univ : IsInaccessible univ.{u, v} :=
```
instead?

File: Mathlib/SetTheory/Cardinal/Regular.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Regular.lean:451]: It seems like it's been fixed, sort of! I can reproduce this example on latest Mathlib but not nightly.
```lean 4
universe u

def Foo : Type (u + 1) := Type u

def Foo.bar : Foo := Type u

example : Foo.bar.{u} = .bar.{u} := rfl
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
